US04946839
2.18g (8 mmol) of 2,4-dibromoglutaric anhydride, 2.1 ml (20 mmol) of benzyl alcohol, and 2 ml of benzene are stirred for 1 5 hours at room temperature 76 mg (0.4 mmol) of p-toluenesulfonic acid monohydrate and 8 ml of benzene are added, and the solution is refluxed under a Dean-Stark trap for 2 hours. Filtration over silica gel and evaporation yields 3.77g (100%) of dibenzyl 2,4-dibromoglutarate as a colourless oil. 1H NMR (CDCl3): δ7.37 (br. s., 10H), 5.21 (narrow AB system, 4H, J=12.5); dl isomer: δ4.55 (dd, 2H, J=6.5, 7.5), 2.69 (dd, 2H, J=6.5, 7.5); meso isomer: δ 4.42 (t, 2H, J=7.5), 2.90 (dt, 1H, J=7.5 (t), 14.5 (d)), 2.66 (dt, 1H, J=7.5 (t), 14.5 (d)); dl/meso=6:1. IR (neat): 3034, 1740, 1499, 1456, 1385, 1273, 1154, 750, 696 cm-1.

reactant | 2,4-dibromoglutaric anhydride | 8 mmol, 2.18g | BrC1C(=O)OC(C(C1)Br)=O | C5H4Br2O3
reactant | benzyl alcohol | 20 mmol, 2.1 ml | C(C1=CC=CC=C1)O | C7H8O
catalyst | p-toluenesulfonic acid monohydrate | 0.4 mmol, 76 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 8 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | dibenzyl 2,4-dibromoglutarate | 3.77g, 100% | BrC(C(=O)OCC1=CC=CC=C1)CC(C(=O)OCC1=CC=CC=C1)Br | C19H18Br2O4
